US06048864
(g) 5-Cyclobutyloxy-2,4-dihydroxy-6,7-dimethoxyquinazoline
Methyl 6-amino-2-cyclobutyloxy-3,4-dimethoxybenzoate (500 mg, 0.00177 mol) was added to a solution of sodium cyanate (462 mg, 0.00708 mol) and trifluoroacetic acid (0.55 ml, 0.00708 mol) in dichloromethane (15 ml) and the reaction stirred at room temperature for 1 hour. Water (25 ml) was then added and the mixture extracted with dichloromethane (3×25 ml). The combined organic extracts were washed again with water (40 ml), dried (MgSO4), filtered and evaporated under reduced pressure. The residue was suspended in a solution of sodium hydroxide (750 mg) in water (30 ml) and heated to 60° C. for 1 hour. On cooling, the mixture was acidified with concentrated hydrochloric acid, the resulting precipitate filtered and washed with water (20 ml) and diethyl ether (10 ml). Drying under air suction gave the subtitle compound as a solid (300 mg, 58%). 1H-NMR (DMSO-d6): δ=1.40 (1H, m), 1.67 (1H, m), 2.16 (4H, m), 3.68 (3H, s), 3.83 (3H, s), 4.58 (1H, m), 650 (1H, s).

reactant | Methyl 6-amino-2-cyclobutyloxy-3,4-dimethoxybenzoate | 0.00177 mol, 500 mg | NC1=CC(=C(C(=C1C(=O)OC)OC1CCC1)OC)OC | C14H19NO5
reactant | sodium cyanate | 0.00708 mol, 462 mg | [O-]C#N.[Na+]
reactant | trifluoroacetic acid | 0.00708 mol, 0.55 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | 25 ml | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 5-Cyclobutyloxy-2,4-dihydroxy-6,7-dimethoxyquinazoline | 300 mg, 58% | C1(CCC1)OC1=C2C(=NC(=NC2=CC(=C1OC)OC)O)O | C14H16N2O5
